### PR TITLE
[Merged by Bors] - chore: Delete `Data.Int.Parity`

### PR DESCRIPTION
**Pull request by YaelDillies**
Scatter the lemmas in `Data.Int.Parity` to earlier files:
* `Algebra.Group.Int`
* `Algebra.Ring.Int`

---

- [x] depends on: #12821
- [x] depends on: #12882

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Int.lean [hunk 1]
```diff
@@ -183,6 +186,92 @@ lemma eq_one_or_neg_one_of_mul_eq_neg_one (h : u * v = -1) : u = 1 ∨ u = -1 :=
   Or.elim (eq_one_or_neg_one_of_mul_eq_neg_one' h) (fun H => Or.inl H.1) fun H => Or.inr H.1
 #align int.eq_one_or_neg_one_of_mul_eq_neg_one Int.eq_one_or_neg_one_of_mul_eq_neg_one
 
+/-! #### Parity -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Int.lean:189]: This would make it a subsection of Units, which I don't think is intended.

```suggestion
/-! ### Parity -/
```

File: Mathlib/Algebra/Ring/Int.lean [hunk 2]
```diff
@@ -86,6 +87,176 @@ lemma units_eq_one_or (u : ℤˣ) : u = 1 ∨ u = -1 := by
...
+
+lemma two_mul_ediv_two_of_odd (h : Odd n) : 2 * (n / 2) = n - 1 :=
+  eq_sub_of_add_eq (two_mul_ediv_two_add_one_of_odd h)
+#align int.two_mul_div_two_of_odd Int.two_mul_ediv_two_of_odd
+
+-- Here are examples of how `parity_simps` can be used with `Int`.
+example (m n : ℤ) (h : Even m) : ¬Even (n + 3) ↔ Even (m ^ 2 + m + n) := by
+  simp (config := {decide := true}) [*, (by decide : ¬2 = 0), parity_simps]
+
+example : ¬Even (25394535 : ℤ) := by decide
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Ring/Int.lean:260]: You already have those in the group file

**Review by Ruben-VandeVelde — APPROVED** [review]
I can live with this, but I'm not super happy with how the `Algebra.*.Int` modules no longer really have a clear purpose, but become a home for everything vaguely groupish/ringish related to integers. That can be addressed later, though. (Consider adding a note to the module documentation?)

In any case, feel free to put on the queue.

File: Mathlib/Algebra/Group/Int.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Int.lean:189]: Ah I meant for "Units" to be a subsection of "Miscellaneous lemmas".

**Comment by YaelDillies** [comment]
> I can live with this, but I'm not super happy with how the `Algebra.*.Int` modules no longer really have a clear purpose, but become a home for everything vaguely groupish/ringish related to integers.

I'm making it contain anything that relates the definitions in `Algebra.Group`/`Algebra.Ring` with `Int`. I consider this a step forward, since no algebra should ever be imported in `Data` (we're still a long way off...). If needed, we can split `Algebra.Ring.Int` into `Algebra.Ring.Int.Basic`/`Algebra.Ring.Int.Parity`, or something like that, later.

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
